US06579886B2
Preparation of [3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate.
A solution of [3S,4aR,6S,8aR]-ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate (10.55 g, 0.02138 mol), iodotrimethylsilane (21.39 g, 0.1069 mol), and dichloromethane (428 mL) was stirred for 16 hours at ambient temperature until complete as determined by tic (ethyl acetate/hexane, 2:1). The reaction mixture was concentrated to approximately 200 mL, ethanol (100 mL) was added and the resulting solution concentrated to a yellow foam. The residue was dissolved in methanol (190 mL) and stirred for 30 minutes with Amberlyst 15 resin (50 g). The resin was filtered and washed with methanol (100 mL). The product was eluted from the Amberlyst resin with 2N ammonia in methanol (2×100 mL). The filtrate was concentrated to an oil. The residue was purified by Biotage Flash 40M (dichloromethane/methanol, 19:1) to give 4.72 g of the free base of the final title compound, [3S,4aR,6S,8aR]-ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate.

reactant | [3S,4aR,6S,8aR]-ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 0.02138 mol, 10.55 g | C(C)OC(=O)[C@H]1N(C[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C(=O)OCC)C(=O)OCC)C(=O)OC | C24H35N3O8
reactant | iodotrimethylsilane | 0.1069 mol, 21.39 g | I[Si](C)(C)C | C3H9ISi
reactant | dichloromethane | 428 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | [3S,4aR,6S,8aR]-Ethyl-6-((4,5-bis-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 4.72 g | C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C(=O)OCC)C(=O)OCC | C22H33N3O6
